US04054741
A mixture if 9,15-dioxoprost-13-enoic acid methyl ester (2.0 g) benzene (50 ml), p-toluenesulfonic acid (37 mg) and ethylene glycol (372 mg) is refluxed for 2.5 hours, diluted with ether, washed neutral with water, dried over magnesium sulfate, and evaporated under reduced pressure. The residue containing 9-ethylenedioxy-15-oxoprost-13-enoic acid methyl ester is taken up in methanol (20 ml) and treated with sodium borohydride (300 mg) in small portions with stirring which is continued for 30 minutes. The solvent is evaporated under reduced pressure, the residue taken up in ether, washed to neutrality with water, dried over magnesium sulfate, and the solvent evaporated under reduced pressure. The residue is chromatographed on silica gel (140 g) and eluted with 40% ether in hexane to yield 9-ethylenedioxy-15-hydroxyprost-13-enoic acid methyl ester, γmaxFilm 3460, 1740, 1037, 975, 950 cm-1.

reactant | 9,15-dioxoprost-13-enoic acid methyl ester | 50 ml, 2.0 g | COC(CCCCCC[C@H]1C(CC[C@@H]1C=CC(CCCCC)=O)=O)=O | C21H34O4
reactant | p-toluenesulfonic acid | 37 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 372 mg | C(CO)O | C2H6O2
solvent | ether | CCOCC | C4H10O
product | 9-ethylenedioxy-15-hydroxyprost-13-enoic acid methyl ester | COC(CCCCCC[C@H]1C2C(C[C@@H]1C=CC(CCCCC)O)OCCO2)=O | C23H40O5
